US07595398B2
2-(4-Pyridin-3-yl-thiazol-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester (Compound 5338)
Pyrrolidine-1-carboxylic acid benzyl ester, (224 mg, 0.9 mmol) was combined with 376 mg (1.0 mmol) of HATU. This mixture was dissolved in 15 ml of DMF. To this solution was added DIEA (1.8 mmol, 0.3 mL). This solution was stirred at room temperature for 1.5 hours. To this solution was then added 4-pyridin-3-yl-thiazol-2-ylamine (100 mg, 0.56 mg). Reaction mixture was stirred at room temperature overnight and then purified using reverse phase HPLC. MS: 409.1 (M+H+); H1 NMR (DMSO-d6): δ(ppm) (HCl salt) 12.62 (s, 1H), 9.28 (s, 1H), 8.78 (s, 1H), 8.03 (m, 2H), 7.38 (m, 3H), 7.04 (d, 2H), 5.00 (m, 2H), 4.53 (m, 1H), 3.62 (m, 2H), 2.22 (m, 1H), 1.89 (m, 4H).

reactant | Pyrrolidine-1-carboxylic acid benzyl ester | 0.9 mmol, 224 mg | C(C1=CC=CC=C1)OC(=O)N1CCCC1 | C12H15NO2
reactant | HATU | 1.0 mmol, 376 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.8 mmol, 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-pyridin-3-yl-thiazol-2-ylamine | 100 mg | N1=CC(=CC=C1)C=1N=C(SC1)N | C8H7N3S
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 2-(4-Pyridin-3-yl-thiazol-2-ylcarbamoyl)-pyrrolidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1C(CCC1)C(NC=1SC=C(N1)C=1C=NC=CC1)=O | C21H20N4O3S
